US05220018
3-Nitro-N-(2-propylsulfonyl)phenylcarboxamide
A solution of 3-nitrophenylcarboxamide (2 g) in 150 ml of dry tetrahydrofuran was cooled to 0° C. and treated with 530 mg of sodium hydride (60% oil dispersion). The reaction mixture was stirred for 20 minutes and then 2-propylsulfonylchloride (1.5 ml) was introduced dropwise via syringe. After 5 minutes the reaction mixture became homogeneous and was warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with 300 ml of ethyl acetate and was washed with brine. The organic extracts were dried, concentrated in vacuo, and the residue was chromatographed on silica gel (chloroform-methanol, 95:5 v/v) to yield 0.6 g of the title compound in pure form.

reactant | 3-nitrophenylcarboxamide | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)N | C7H6N2O3
reactant | sodium hydride | 530 mg | [H-].[Na+]
reactant | 2-propylsulfonylchloride | 1.5 ml | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-N-(2-propylsulfonyl)phenylcarboxamide | 0.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NS(=O)(=O)C(C)C | C10H12N2O5S
